US05238953
A mixture of 1-(4-fluorophenyl)hydrazine hydrochloride (5 g), ethyl 2-cyclohexanoneacetate (5.6 g) and 2-propanol (100 ml) is refluxed under nitrogen for 9 hours. After cooling the mixture is filtered and the solution evaporated to dryness. The residue is purified through a silica gel column eluiting with methylene chloride/methanol (100/1) to give 4 g of isopropyl 6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetate.

reactant | 1-(4-fluorophenyl)hydrazine hydrochloride | 5 g | Cl.FC1=CC=C(C=C1)NN
reactant | ethyl 2-cyclohexanoneacetate | 5.6 g | CCOC(=O)CC1CCCCC1=O | C10H16O3
reactant | 2-propanol | 100 ml | CC(C)O | C3H8O
product | isopropyl 6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetate | 4 g | FC=1C=C2C=3CCCC(C3NC2=CC1)CC(=O)OC(C)C | C17H20FNO2
